US05354913
To a solution of (R)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole (1.1 g) in tetrahydrofuran (20 ml) was added at 0° C. 1M tetrahydrofuran solution of boranetetrahydrofuran complex (4 ml). To this solution were added dropwise a solution of methyl 7-(4-fluorophenyl)-7-oxoheptanoate (10.0 g, 39.6 mmol) in tetrahydrofuran (20 ml) and 1M tetrahydrofuran solution of boranetetrahydrofuran complex (20 ml), simultaneously, taking 25 minutes. The mixture was stirred for 30 minutes at the same temperature range, to which was added methanol (20 ml), followed by stirring for 30 minutes at room temperature. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel column chromatography to give methyl (S)-7-(4-fluorophenyl)-7-hydroxyheptanoate (9.91 g). Physico-chemical properties and spectral data of this product are shown in [Table 7]. Likewise, Compound 1-2 was prepared.

reactant | (R)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole | 1.1 g | C1(=CC=CC=C1)C1([C@@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | methyl 7-(4-fluorophenyl)-7-oxoheptanoate | 39.6 mmol, 10.0 g | FC1=CC=C(C=C1)C(CCCCCC(=O)OC)=O | C14H17FO3
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | methyl (S)-7-(4-fluorophenyl)-7-hydroxyheptanoate | 9.91 g | FC1=CC=C(C=C1)[C@H](CCCCCC(=O)OC)O | C14H19FO3
